US07825253B2
N5-(7-Fluoro-1H-indol-4-yl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=387.1 (M+H+), was prepared in accordance with the general method of example 38 from 5-nitro-2-chloroquinoline, 5-methyl-2-furanmethanamine and 4-bromo-7-fluoroindole.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 4-bromo-7-fluoroindole | BrC1=C2C=CNC2=C(C=C1)F | C8H5BrFN
product | N5-(7-Fluoro-1H-indol-4-yl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | FC=1C=CC(=C2C=CNC12)NC=1C=2C=CC(=NC2C=CC1)NCC=1OC(=CC1)C | C23H19FN4O
